US04159338
(E) 4-(4-Chlorophenyl)-2-(1,1,2,2-tetrafluoroethylthio)-5-(2-thienyl)-1H-imidazole.
A solution of 6.9 g of 4-(4-chlorophenyl)-5-(2-thienyl)-1H-2-imidazolethiol in 40 ml of dimethylformamide and 1.5 ml of diisopropylamine was pressured in a bomb with 3 g of tetrafluoroethylene and shaken until there was no further pressure drop. The bomb contents were poured into water, the pH adjusted to 8 and the solution extracted with chloroform. The extract was dried and concentrated. It was chromatographed on silica gel (Silicar CC-4) to give 5.5 g of a cut which was dissolved in hot 1-chlorobutane. On cooling 4.5 g of product was obtained, m.p. 161.5°-163° C.

reactant | 4-(4-chlorophenyl)-5-(2-thienyl)-1H-2-imidazolethiol | 6.9 g | ClC1=CC=C(C=C1)C=1N=C(NC1C=1SC=CC1)S | C13H9ClN2S2
reactant | tetrafluoroethylene | 3 g | FC(=C(F)F)F | C2F4
reactant | water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | diisopropylamine | 1.5 ml | C(C)(C)NC(C)C | C6H15N
solvent | 1-chlorobutane | ClCCCC | C4H9Cl
product | 4-(4-Chlorophenyl)-2-(1,1,2,2-tetrafluoroethylthio)-5-(2-thienyl)-1H-imidazole | ClC1=CC=C(C=C1)C=1N=C(NC1C=1SC=CC1)SC(C(F)F)(F)F | C15H9ClF4N2S2
